US09255110B2
To a solution of tert-butyl-[3-(4-chloro-2-nitro-phenoxy)-propoxy]-dimethyl-silane (0.37 g, 1.07 mmol), in a mixture of ethanol (10 mL) and water (3 mL), were added ammonium chloride (0.3 g, 5.37 mmol) and iron powder (0.3 g, 5.6 mmol) and the resulting mixture was heated at 80° C. overnight. The solid was filtered through a CELITE™ pad, the filter cake was washed with ethyl acetate. The filtrate was washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified on a silica gel plug to give 0.188 g (87% yield) of 3-(2-amino-4-chloro-phenoxy)-propan-1-ol as a yellow oil.

reactant | tert-butyl-[3-(4-chloro-2-nitro-phenoxy)-propoxy]-dimethyl-silane | 1.07 mmol, 0.37 g | C(C)(C)(C)[Si](C)(C)OCCCOC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C15H24ClNO4Si
reactant | ammonium chloride | 5.37 mmol, 0.3 g | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
catalyst | iron | 5.6 mmol, 0.3 g | [Fe] | Fe
product | 3-(2-amino-4-chloro-phenoxy)-propan-1-ol | 0.188 g, 87% yield | NC1=C(OCCCO)C=CC(=C1)Cl | C9H12ClNO2
